US07105544B2
N-[3-(1-{3-[(2-BROMO-2-PHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE
Example 10 was prepared from bromo(phenyl)acetic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}propanamide according to the procedures described in Scheme 10: ESMS m/e: 486.1 (M+H)+.

reactant | bromo(phenyl)acetic acid | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}propanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O | C17H27N3O
product | N-[3-(1-{3-[(2-BROMO-2-PHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE | BrC(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O)C1=CC=CC=C1 | C25H32BrN3O2
